### PR TITLE
prove handleEvent_corres + fix sorries in Refine.thy

### PR DESCRIPTION
**Pull request by mktnk3**
This removes the last sorry in Syscal_R.thy.

The main proof and its helper lemmas make use of the asserts added in https://github.com/seL4/l4v/pull/409.

Update: this PR now contains #416 , which removes all the remaining sorries in Refine. Since this PR touches quite a lot of places in Syscall_R, it should make sense to review the two together rather than one after the other.

### CODE REVIEW

File: proof/refine/ARM/Refine.thy [hunk 1]
```diff
@@ -499,18 +499,29 @@ lemma akernel_invariant:
...
 
 lemma ckernel_invs:
-  "\<lbrace>invs' and (\<lambda>s. vs_valid_duplicates' (ksPSpace s)) and
-               (\<lambda>s. e \<noteq> Interrupt \<longrightarrow> ct_running' s) and
-               (\<lambda>s. ksSchedulerAction s = ResumeCurrentThread)\<rbrace>
+  "\<lbrace>invs' and (\<lambda>s. vs_valid_duplicates' (ksPSpace s))
+    and (\<lambda>s. e \<noteq> Interrupt \<longrightarrow> ct_running' s) and (ct_running' or ct_idle')
+    and (\<lambda>s. is_active_sc' (ksCurSc s) s) and sym_heap_tcbSCs
+    and (\<lambda>s. obj_at' (\<lambda>sc. scTCB sc = Some (ksCurThread s)) (ksCurSc s) s)
+    and (\<lambda>s'. pred_map (\<lambda>tcb. \<not> tcbInReleaseQueue tcb) (tcbs_of' s') (ksCurThread s'))
```
Comment (lsf37) [inline proof/refine/ARM/Refine.thy:506]: Any specific reason for the `s'` in this one instead of `s`?

File: proof/refine/ARM/Refine.thy [hunk 2]
```diff
@@ -525,23 +536,47 @@ lemma callKernel_domain_time_left:
...
-           (ct_running' or ct_idle') and
-           (\<lambda>s. vs_valid_duplicates' (ksPSpace s)) and
-           (\<lambda>s. ksSchedulerAction s = ResumeCurrentThread) and
-           (\<lambda>s. 0 < ksDomainTime s) and valid_domain_list' \<rbrace>
+  "\<lbrace> invs' and (\<lambda>s. e \<noteq> Interrupt \<longrightarrow> ct_running' s)
+    and (ct_running' or ct_idle')
+    and (\<lambda>s. vs_valid_duplicates' (ksPSpace s))
+    and (\<lambda>s. is_active_sc' (ksCurSc s) s) and sym_heap_tcbSCs
+    and (\<lambda>s. obj_at' (\<lambda>sc. scTCB sc = Some (ksCurThread s)) (ksCurSc s) s)
+    and (\<lambda>s'. pred_map (\<lambda>tcb. \<not> tcbInReleaseQueue tcb) (tcbs_of' s') (ksCurThread s'))
```
Comment (lsf37) [inline proof/refine/ARM/Refine.thy:562]: `s'` likely copy/paste from above

**Review by lsf37 — APPROVED** [review]
Very nice!

We're adding a bunch of new preconditions to `kernel_corres` and `entry_corres`. I can't really tell from the diff if these are part of the ADT invariants, i.e. if we know that these conditions are established at kernel exit.

**Comment by lsf37** [comment]
> We're adding a bunch of new preconditions to `kernel_corres` and `entry_corres`. I can't really tell from the diff if these are part of the ADT invariants, i.e. if we know that these conditions are established at kernel exit.

Loading it up in Isabelle, I can see this is all good, most of the bits are crossed over from the abstract side and we have the full ADT refinement at the bottom of the theory. Very nice job!

File: proof/refine/ARM/Syscall_R.thy [hunk 3]
```diff
@@ -2677,6 +2593,400 @@ proof -
...
+     (einvs and ct_running and (\<lambda>s. scheduler_action s = resume_cur_thread) and
+      valid_machine_time and
+      current_time_bounded 5 and
+      consumed_time_bounded and
+      cur_sc_active and
+      ct_released and
+      ct_not_in_release_q and
+      ct_not_queued and
+      (\<lambda>s. cur_sc_offset_ready (consumed_time s) s) and
+      (\<lambda>s. cur_sc_offset_sufficient (consumed_time s) s))
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Syscall_R.thy:2639]: `mcs_invs` can be moved earlier and used here

File: proof/refine/ARM/Syscall_R.thy [hunk 4]
```diff
@@ -2677,6 +2593,400 @@ proof -
...
+     apply wpsimp
+    apply (clarsimp simp: invs_def valid_state_def valid_pspace_def active_from_running
+                          schedulable_def2 released_sc_tcb_at_def)
+    apply (clarsimp simp: ct_in_state_def st_tcb_weakenE)
+   apply (clarsimp simp: active_from_running')
+  apply simp
+  done
+
+abbreviation (input)
+  "a_pre \<equiv> (einvs and ct_running and
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Syscall_R.thy:2718]: This is almost the same as `mcs_invs`. Can they be consolidated or reused somehow?

File: proof/refine/ARM/Syscall_R.thy [hunk 5]
```diff
@@ -2677,6 +2593,400 @@ proof -
...
+
+lemma handleEvent_corres:
+  "corres (dc \<oplus> dc)
+     (einvs and (\<lambda>s. event \<noteq> Interrupt \<longrightarrow> ct_running s)
+      and (\<lambda>s. scheduler_action s = resume_cur_thread)
+      and valid_machine_time and current_time_bounded 5
+      and consumed_time_bounded and cur_sc_active and (ct_active or ct_idle)
+      and ct_not_in_release_q and ct_not_queued
+      and (\<lambda>s. cur_sc_offset_ready (consumed_time s) s)
+      and (\<lambda>s. cur_sc_offset_sufficient (consumed_time s) s))
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Syscall_R.thy:2839]: `mcs_invs`

File: proof/refine/ARM/Syscall_R.thy [hunk 6]
```diff
@@ -2677,6 +2593,400 @@ proof -
...
+     apply (frule (1) invs_strengthen_cur_sc_tcb_are_bound[OF _ invs_cur_sc_tcb])
+      apply (clarsimp simp: invs_def valid_state_def valid_pspace_def)
+     apply (erule (5) schact_is_rct_ct_released)
+     apply (erule (2) cur_sc_not_idle_sc_ptr')
+    apply (case_tac event)
+         apply (simp_all add: handleEvent_def)
+         apply (rename_tac syscall)
+         apply (rule updateTimeStamp_checkBudgetRestart_helperE)
+         apply (case_tac syscall; simp)
+                   apply (auto intro: corres_guard_imp[OF handleSend_corres]
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Syscall_R.thy:2874]: This `auto` needs to be removed. Maybe an Eisbach method, similar to the Eisbach methods we have in `DetSchedSchedule` for the `handle_event` Hoare triples, would be a good idea (though they are annoying to fix when they break...)

**Review by michaelmcinerney — APPROVED** [review]

File: proof/refine/ARM/Refine.thy [hunk 7]
```diff
@@ -617,11 +652,178 @@ lemma doUserOp_valid_duplicates':
...
   done
 
+(* FIXME RT: generalise similar lemmas in InterruptAcc_R with this one *)
+lemma ct_in_state_irq_state_independent[intro!, simp]:
+  "ct_in_state P (s \<lparr>machine_state := machine_state s \<lparr>irq_state := f (irq_state (machine_state s)) \<rparr> \<rparr>)
+   = ct_in_state P s"
+  by (simp add: ct_in_state_def)
+
+lemma valid_tcbs_machine_state_update[iff]:
+  "valid_tcbs (machine_state_update f s) = valid_tcbs s"
```
Comment (corlewis) [inline proof/refine/ARM/Refine.thy:662]: Low priority, but this lemma could be moved as well

File: proof/refine/ARM/Refine.thy [hunk 8]
```diff
@@ -630,59 +832,154 @@ lemma kernel_corres':
...
        apply (rule corres_split_handle [OF _ handleEvent_corres])
+         (* handle *)
+         apply (rule kernel_preemption_corres)
+        apply (rule_tac E="\<lambda>_ s. einvs s \<and> scheduler_act_sane s \<and> cur_sc_chargeable s \<and>
+                                 (schact_is_rct s \<longrightarrow> cur_sc_active s) \<and> ct_not_queued s \<and>
+                                 (schact_is_rct s \<longrightarrow> ct_in_state activatable s) \<and>
+                                 (cur_sc_active s \<longrightarrow> cur_sc_offset_ready (consumed_time s) s) \<and>
+                                 ct_not_blocked s \<and> current_time_bounded 5 s \<and>
+                                 ct_not_in_release_q s \<and> consumed_time_bounded s"
+              in hoare_post_impErr[where Q=Q and R=Q for Q])
```
Comment (corlewis) [inline proof/refine/ARM/Refine.thy:880]:
```suggestion
               in hoare_post_impErr[where Q=Q and R=Q for Q])
```

**Review by corlewis — APPROVED** [review]
This is awesome, great job pushing it through to the end!

File: proof/refine/ARM/Syscall_R.thy (hunk 6 above)
Comment (mktnk3) [reply proof/refine/ARM/Syscall_R.thy:2875]: This auto doesn’t need to be removed. This proof has pretty much (but not exactly) the same structure as the master one up to this point. This auto discharges all the subgoals that it is applied to. This auto may be removed if you like altogether with the master one, I suppose, but that would be total restructuring the proofs which is beyond the purpose of the current PR (which is to fix the sorries as the first priority).

File: proof/refine/ARM/Syscall_R.thy (hunk 4 above)
Comment (mktnk3) [reply proof/refine/ARM/Syscall_R.thy:2721]: These abbreviations (`pre_a` and `pre_c`) are only meant to be used very locally in the two helper lemmas that follow, and the purpose is to ensure that they should have same preconditions. I wouldn’t have needed to introduce them if I could unify these two helper lemmas that are almost identical but in different monads. It would be nice if we can abstract away the structure somehow to avoid duplication, but our current corres framework doesn’t seem to allow that.

**Comment by mktnk3** [comment]
I am not moving `mcs_invs` because there are enough deviations in this PR it seems that doesn’t seem to make doing so worthwhile. I also think that it makes sense to have it close to `full_invs` at this point, maybe till we know the final version of it. If this is final enough, the right place for it is probably not Syscall_R but somewhere in AInvs DetSched*.  Anyway, that is again beyond the scope of this PR.

File: proof/refine/ARM/Syscall_R.thy (hunk 6 above)
Comment (lsf37) [reply proof/refine/ARM/Syscall_R.thy:2877]: In terms of our style rules, this `auto` is permissible, yes. The important part is that it is only applied to goals that it solves, which seems to be the case here.
